US03937833
To 54.5 g (0.239 mole) of 3,6-dihydroxyxanthen-9-one is added 240 ml of methanol and 29.0 g (0.717 mole) of sodium methoxide with stirring after which 700 ml of chlorobenzene is added. Methanol is distilled off until the reaction temperature reaches 130°C. After cooling the reaction mixture to less than about 100°C, 74.5 g (0.5 mole) of 2-piperidinoethylchloride is added and the reaction mixture refluxed for 41/2 hours followed by the addition of 600 ml of water and 20 ml of 50% NaOH with stirring continued for 1/2 hour. The mixture is cooled and chloroform is added to completely dissolve the product. The chlorobenzene-chloroform layer is separated and the aqueous layer is extracted into chloroform. The combined organic layers are washed with water, dried over anhydrous magnesium sulfate and evaporated to give a dark brown oil which solidified upon cooling. The solid is dissolved in boiling ethanol, precipitated with water, cooled and filtered. The resulting solid is dried in vacuo and recrystallized from hexane to give 3,6-bis(2-piperidinoethoxy)xanthone, M.P. 134°-134.5°C.

reactant | 3,6-dihydroxyxanthen-9-one | 0.239 mole, 54.5 g | OC=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=O | C13H8O4
reactant | sodium methoxide | 0.717 mole, 29.0 g | C[O-].[Na+]
reactant | 2-piperidinoethylchloride | 0.5 mole, 74.5 g | N1(CCCCC1)CCCl | C7H14ClN
reactant | NaOH | 20 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 600 ml | O | H2O
solvent | chlorobenzene | 700 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | methanol | 240 ml | CO | CH4O
product | 3,6-bis(2-piperidinoethoxy)xanthone | N1(CCCCC1)CCOC=1C=CC=2C(C3=CC=C(C=C3OC2C1)OCCN1CCCCC1)=O | C27H34N2O4
